US08466201B2
N-(2-Hydroxyethyl)-2-(2,4,6-trichlorophenylamino)-benzenesulfonamide (I)
To a stirred solution of 2-Amino-N-(2-hydroxyethyl)-benzene sulfonamide (160 mg, 0.74 mmol), 1,3,5-trichloro-2-bromobenzene (241 mg, 0.93 mmol), K2CO3 (256 mg, 1.85 mmol) and xantphos (43 mg, 0.074 mmol) in acetonitrile (2 ml) under nitrogen in a microwave tube was added Pd2dba3 (34 mg, 0.037 mmol) in one portion and the tube sealed. The reaction was heated with stirring in a microwave at 160° C. for 120 minutes. The reaction was cooled before filtering through celite. The crude reaction mixture was part-purified by column chromatography eluting with ethyl acetate:hexane and the concentrated fractions further purified by preparative chromatography under acidic conditions to afford the named product (49.0 mg, 17%); δH (400 MHz, DMSO) 7.83 (3H, m), 7.75+7.45 (1H, d), 7.59+7.10 (1H, s), 7.55+7.38 (1H, t), 7.16+6.95 (1H, t), 7.10+6.40 (1H, d), 4.73 (1H, m), 3.35 (2H, m) and 2.83 (2H, m); LCMS Rt=7.92 min, m/z (ES+) 397 (M+H).

reactant | 2-Amino-N-(2-hydroxyethyl)-benzene sulfonamide | 0.74 mmol, 160 mg | NC1=C(C=CC=C1)S(=O)(=O)NCCO | C8H12N2O3S
reactant | 1,3,5-trichloro-2-bromobenzene | 0.93 mmol, 241 mg | ClC1=C(C(=CC(=C1)Cl)Cl)Br | C6H2BrCl3
reactant | K2CO3 | 1.85 mmol, 256 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | xantphos | 0.074 mmol, 43 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | Pd2dba3 | 0.037 mmol, 34 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2-Hydroxyethyl)-2-(2,4,6-trichlorophenylamino)-benzenesulfonamide | 49.0 mg, 17% | OCCNS(=O)(=O)C1=C(C=CC=C1)NC1=C(C=C(C=C1Cl)Cl)Cl | C14H13Cl3N2O3S
